* Subcircuit for ac thyristor model
.subckt scr 1 3 2
* model     anode control cathode
* name voltage
S1 1 5 6 2 SMOD 
* Voltage-controlled switch
RG 3 4 2k
VX 4 2 DC 0V
VY 5 7 DC 0V
DT 7 2 DMOD 
*Switch diode
RT 6 2 10
CT 6 2 1u
F1 2 6 POLY(2) VX VY 0 50 11
.MODEL SMOD VSWITCH (RON=0.02 ROFF=1MEG VON=0.7 VOFF=0V)
*Switch model
.MODEL DMOD D(IS=2.2E-15 BV=1800 TT=0)
* Diode model parameters
.ENDS SCR ; Ends subcircuit definition
