* D:\GITHUB\GitHub\DCSource_DIY\Electronic-design\Stage-by-stage-design\00_DC-DC_Converter\LTSpice-simulation\Sim_1.asc
XU1 N011 N012 N015 N017 0 N013 N004 N018 UCC28C43_STEADY2
V2 N007 N008 SINE(0 170 60)
D1 N007 N001 D
D2 N008 N001 D
D3 N009 N007 D
D4 N009 N008 D
C1 N001 N009 C
R1 N001 N004 R
Q1 VRef N017 N019 0 NPN
Q2 0 N010 N011 0 PNP
C2 0 N010 C
R2 N010 VRef R
C3 N019 N020 C
R3 N015 N020 R
R4 N011 N012 R
C4 N011 N012 C
R5 VRef N017 R
C6 N017 0 C
XU2 N022 NC_01 N018 N023 NC_02 4N25
R6 N023 0 R
R8 N016 N015 R
R9 N018 N015 R
C5 N015 0 C
R7 N023 N012 R
M1 N003 N014 N016 N016 NMOS
R10 N014 N013 R
R11 0 N014 R
R12 N016 0 R
C7 N018 0 C
L1 N001 N003 L
L2 N006 0 L
L3 N002 COM L
R13 N006 N005 R
D5 N005 N004 D
C8 N004 0 C
C9 0 N004 C
D6 0 N004 UDZV10B
D7 N002 Vout D
C10 Vout COM C
R14 Vout N022 R
R15 Vout N021 R
D8 0 N021 D
R16 Vout N025 R
R17 N024 N021 R
C11 N025 N024 C
.model D D
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m
.include UCC28C43_LTspice_Compatible_v2.lib
.lib 4N25.sub
.lib C:\Users\Sebastian\Documents\Github\DCSource_DIY\Electronic-design\Stage-by-stage-design\00_DC-DC_Converter\LTSpice-simulation\UCC28C43_LTspice_Compatible_v2.lib
.backanno
.end
